datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CN(C)/C=[N:10]\c1cccc(Cl)c1.Cc1ccc([N+:21]2([H:20])CCCC(=O)C(O)CCC2)cc1>>CN(C)/C=[N+:10](\c1cccc(Cl)c1)[H:20].Cc1ccc([N:21]2CCCC(=O)C(O)CCC2)cc1 10=20;20,21=21",
"COC(=O)C(Cc1c[nH]c[n:10]1)NC(C)=O.Cc1cc(Br)cc(C)c1[N+:21](C)(C)[H:20]>>COC(=O)C(Cc1c[nH]c[n+:10]1[H:20])NC(C)=O.Cc1cc(Br)cc(C)c1[N:21](C)C 10=20;20,21=21",
"CS(=O)(=O)c1ccc([O:21][H:20])cc1.C[NH+](C)C[C@@H]1[C@@H]([NH2:10])[C@]2(C)CC[C@@H]1C2(C)C>>CS(=O)(=O)c1ccc([O-:21])cc1.C[NH+](C)C[C@@H]1[C@@H]([NH2+:10][H:20])[C@]2(C)CC[C@@H]1C2(C)C 10=20;20,21=21",
"CC(C)(C)[O-:10].Cc1ccc2ccccc2[n+:21]1[H:20]>>CC(C)(C)[O:10][H:20].Cc1ccc2ccccc2[n:21]1 10=20;20,21=21",
"C1CN2CCC[N:10]2C1.CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[N+:21]2(CC)[H:20])c1[O-]>>C1CN2CCC[N+:10]2([H:20])C1.CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[N:21]2CC)c1[O-] 10=20;20,21=21",
"CC(C)[NH:10]CCc1ccc([O-])cc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[NH+:10](CCc1ccc([O-])cc1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(CC[NH+](C)C)[NH+:21](N)[H:20].C[NH+](C)Cc1cc(F)ccc1[O-:10]>>CC(CC[NH+](C)C)[NH:21]N.C[NH+](C)Cc1cc(F)ccc1[O:10][H:20] 10=20;20,21=21",
"C=CCC1(C2C=CCCC2)C(=O)[N-]C(=S)[N-:10]C1=O.CCOCCn1c(CN2CC[NH+](CCCCn3cccn3)CC2)[n+:21]([H:20])c2ccccc21>>C=CCC1(C2C=CCCC2)C(=O)[N-]C(=S)[N:10]([H:20])C1=O.CCOCCn1c(CN2CC[NH+](CCCCn3cccn3)CC2)[n:21]c2ccccc21 10=20;20,21=21",
"CC(C)[N:10]1C[Si](C)(C)O[Si](C)(C)C1.Cc1cc(N)ccc1S(=O)(=O)[N:21](c1nccs1)[H:20]>>CC(C)[N+:10]1([H:20])C[Si](C)(C)O[Si](C)(C)C1.Cc1cc(N)ccc1S(=O)(=O)[N-:21]c1nccs1 10=20;20,21=21",
"C/C=C/C(=O)[O:21][H:20].c1cc([O-:10])c2[nH]ncc2c1>>C/C=C/C(=O)[O-:21].c1cc([O:10][H:20])c2[nH]ncc2c1 10=20;20,21=21",
"CC(C)c1ccccc1C(=O)[O-:10].CC[NH+](CC)Cc1c(Cl)cccc1[O:21][H:20]>>CC(C)c1ccccc1C(=O)[O:10][H:20].CC[NH+](CC)Cc1c(Cl)cccc1[O-:21] 10=20;20,21=21",
"O=C([O-])C1CC[NH:10]C1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])C1CC[NH+:10]([H:20])C1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C=C[C@]1(O)C[C@@H](C)[NH+:21]([H:20])[C@H]2CCCC[C@@H]21.CC1=CSC2=[N:10]CCN12>>C=C[C@]1(O)C[C@@H](C)[NH:21][C@H]2CCCC[C@@H]21.CC1=CSC2=[N+:10]([H:20])CCN12 10=20;20,21=21",
"C/C=C/C=C/C(=O)[O-:10].CNC(=O)C=C(c1ccc2c(c1)n(C(C)C)c(N)[n+:21]2[H:20])c1cccc(F)c1F>>C/C=C/C=C/C(=O)[O:10][H:20].CNC(=O)C=C(c1ccc2c(c1)n(C(C)C)c(N)[n:21]2)c1cccc(F)c1F 10=20;20,21=21",
"COc1c(N)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1.C[N+:21](C)(CCC(=O)[O-])[H:20]>>COc1c(N)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20].C[N:21](C)CCC(=O)[O-] 10=20;20,21=21",
"CCCCN(CCCC)c1c(C)cc(-c2ccccc2)n[n+:21]1[H:20].O=C1c2ccc([N+](=O)[O-])cc2C(=O)[N-:10]1>>CCCCN(CCCC)c1c(C)cc(-c2ccccc2)n[n:21]1.O=C1c2ccc([N+](=O)[O-])cc2C(=O)[N:10]1[H:20] 10=20;20,21=21",
"CCCC[NH:10]CCN.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCC[NH+:10](CCN)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=Cc1cc([N+](=O)[O-])cc(Br)c1[O:21][H:20].c1ncc([O-:10])cn1>>O=Cc1cc([N+](=O)[O-])cc(Br)c1[O-:21].c1ncc([O:10][H:20])cn1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)cnc1cc([O-:10])ccc12>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)cnc1cc([O:10][H:20])ccc12 10=20;20,21=21",
"CCC1(c2ccccc2)NC(=O)[N:21]([H:20])C1=O.Cc1cc(O)n(-c2nc([O-:10])c(C)c(C)[nH+]2)n1>>CCC1(c2ccccc2)NC(=O)[N-:21]C1=O.Cc1cc(O)n(-c2nc([O:10][H:20])c(C)c(C)[nH+]2)n1 10=20;20,21=21",
"CCCC1(CCC)SC(=O)[N:21]([H:20])C1=O.C[NH+](C)CCN1C=[N:10]c2cccc3cccc1c23>>CCCC1(CCC)SC(=O)[N-:21]C1=O.C[NH+](C)CCN1C=[N+:10]([H:20])c2cccc3cccc1c23 10=20;20,21=21",
"Cc1cc(C)c[n:10]c1.Nc1c2ccccc2[nH+]c2cc([O:21][H:20])ccc12>>Cc1cc(C)c[n+:10]([H:20])c1.Nc1c2ccccc2[nH+]c2cc([O-:21])ccc12 10=20;20,21=21",
"Cc1ccc2c(c1)[N:10]1CC[NH+]2CC1.O=C(C#CI)[O:21][H:20]>>Cc1ccc2c(c1)[N+:10]1([H:20])CC[NH+]2CC1.O=C(C#CI)[O-:21] 10=20;20,21=21",
"CCC[n+]1cccc2cc([O:21][H:20])ccc21.Cc1cccc([O-:10])c1>>CCC[n+]1cccc2cc([O-:21])ccc21.Cc1cccc([O:10][H:20])c1 10=20;20,21=21",
"Cc1ncnc2c1[nH]c[n:10]2.N#CC(C#N)=[N+:21](Nc1ccccc1C(=O)O)[H:20]>>Cc1ncnc2c1[nH]c[n+:10]2[H:20].N#CC(C#N)=[N:21]Nc1ccccc1C(=O)O 10=20;20,21=21",
"CC(C)NC(=S)[S:21][H:20].Cn1c(N)cc[n:10]1>>CC(C)NC(=S)[S-:21].Cn1c(N)cc[n+:10]1[H:20] 10=20;20,21=21",
"CC(O)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])=C1>>CC(O)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"CC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1>>CC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1 10=20;20,21=21",
"Cc1ccc([N+:21](CC2CO2)(CC2CO2)[H:20])cc1.O=S(=O)(c1ccccc1)[N-:10]c1cccc(F)c1>>Cc1ccc([N:21](CC2CO2)CC2CO2)cc1.O=S(=O)(c1ccccc1)[N:10](c1cccc(F)c1)[H:20] 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH:10]C.Cc1cc(Cc2cc([O:21][H:20])ccc2C)c([O-])c([N+](=O)[O-])c1>>CC(C)C(C(=O)[O-])[NH+:10](C)[H:20].Cc1cc(Cc2cc([O-:21])ccc2C)c([O-])c([N+](=O)[O-])c1 10=20;20,21=21",
"CCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])C=C1>>CCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
